US09216980B2
3-[4-(4-Methylpiperazin-1-yl)-phenyl]-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carboxylic acid dimethylamide
DIPEA (14 μL, 77 μmol) was added to a solution of 3-[4-(4-methylpiperazin-1-yl)-phenyl]-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carboxylic acid (20.0 mg, 51.6 μmol), PyBOP (28.2 mg, 54.2 μmol) and HOBt (8.4 mg, 62 μmol) in DMF (0.6 mL). After 10 min at ambient temperature, dimethylamine hydrochloride (20.0 mg, 0.258 mmol) and DIPEA (45 μL, 0.26 mmol) were added to the reaction mixture. After 30 min the reaction mixture was acidified with 10% aqueous sulfuric acid, the solid removed by filtration and the resultant filtrate was purified by preparative HPLC (0-30% MeCN over 30 min, 35 mL/min) to afford the title compound. 1H NMR (DMSO-D6, 400 MHz): 12.40 (s, 1H), 9.03 (m, 1H), 8.92 (m, 1H), 8.89 (m, 1H), 8.55 (m, 1H), 7.75 (d, J=8.9 Hz, 2H), 7.18 (d, J=8.9 Hz, 2H), 3.97 (d, J=12.2 Hz, 2H), 3.56 (d, J=12.2 Hz, 2H), 3.21 (m, 2H), 3.08 (m, 6H), 3.02 (m, 2H), 2.98 (s, 3H). LCMS (Method D): RT=6.19 min, M+H+=415.

reactant | DIPEA | 77 μmol, 14 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-[4-(4-methylpiperazin-1-yl)-phenyl]-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carboxylic acid | 51.6 μmol, 20.0 mg | CN1CCN(CC1)C1=CC=C(C=C1)C1=CC2=C(NC3=C2C=C(N=C3)C(=O)O)N=C1 | C22H21N5O2
reactant | PyBOP | 54.2 μmol, 28.2 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | HOBt | 62 μmol, 8.4 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | dimethylamine hydrochloride | 0.258 mmol, 20.0 mg | Cl.CNC
reactant | DIPEA | 0.26 mmol, 45 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | DMF | 0.6 mL | CN(C)C=O | C3H7NO
product | 3-[4-(4-Methylpiperazin-1-yl)-phenyl]-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carboxylic acid dimethylamide | CN(C(=O)C1=CC=2C3=C(NC2C=N1)N=CC(=C3)C3=CC=C(C=C3)N3CCN(CC3)C)C | C24H26N6O
